US05389602
a) 6-(3-isopropylisoxazol-5-yl)-tetrahydropyran-2,4-dione
At -10° C., 61.5 g of methyl acetoacetate was dripped into 16.5 g of sodium hydride in 350 ml of THF. The mixture was cooled to -60° C. and 344 ml of 1.6 molar n-butyllithium solution in hexane was added. After all had been added, the mixture was stirred for 30 minutes at -60° C., and then 69.5 g of 5-formyl-3-isopropylisoxazole in 50 ml of THF was quickly dripped in at -60° C. The mixture was stirred for 30 minutes and then 10 ml of methanol followed by 30 g of acetic acid was added. After 10 minutes, the mixture was poured onto 500 g of ice, heated to room temperature, and stirred for 1 hour. The aqueous phase was extracted three times with methylene chloride, brought--with cooling--to a pH of 4.5 with dilute hydrochloric acid, and extracted with methylene chloride. The extract was washed with 5% strength sodium bicarbonate solution and water, dried with sodium sulfate, and the solvent was stripped off in a rotary evaporator. The residue was crystallized by stirring with methyl tert-butyl ether, followed by suction filtration. There was obtained 15 g of pure product.

reactant | methyl acetoacetate | 61.5 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | 16.5 g | [H-].[Na+]
reactant | n-butyllithium | 1.6 molar, 344 ml | C(CCC)[Li]
reactant | 5-formyl-3-isopropylisoxazole | 69.5 g | C(=O)C1=CC(=NO1)C(C)C | C7H9NO2
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 30 g | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | 6-(3-isopropylisoxazol-5-yl)-tetrahydropyran-2,4-dione | 15 g | C(C)(C)C1=NOC(=C1)C1CC(CC(O1)=O)=O | C11H13NO4
